US05763489
A solution of N-[(1,2,3,4-tetrahydro-5-hydroxy-2-naphthyl)methyl]phthalimide (634 mg) and hydrazine monohydrate (309 mg) in ethanol (14 ml) was refluxed for 3 hours, cooled to room temperature, and evaporated in vacuo. The residue was chromatographed (methylene chloride-methanol) over basic alumina to afford 6-(aminomethyl)-5,6,7,8-tetrahydro-1-naphthol (281 mg) as a colorless powder. mp: 183°-192° C.

reactant | N-[(1,2,3,4-tetrahydro-5-hydroxy-2-naphthyl)methyl]phthalimide | 634 mg | OC1=C2CCC(CC2=CC=C1)CN1C(C=2C(C1=O)=CC=CC2)=O | C19H17NO3
reactant | hydrazine monohydrate | 309 mg | O.NN
solvent | ethanol | 14 ml | C(C)O | C2H6O
product | 6-(aminomethyl)-5,6,7,8-tetrahydro-1-naphthol | 281 mg | NCC1CC=2C=CC=C(C2CC1)O | C11H15NO
